US04593125
Eiglmeier, in U.S. 4,082,807, teaches the acylation of 2-methoxynaphthalene in anhydrous hydrogen fluoride with diketene to yield 1-acetoacetyl-2-methoxynaphthalene in 88% yield at -25° C. to -35° C.

reactant | 2-methoxynaphthalene | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | hydrogen fluoride | F | FH
product | 1-acetoacetyl-2-methoxynaphthalene | 88% yield | C(CC(=O)C)(=O)C1=C(C=CC2=CC=CC=C12)OC | C15H14O3
